data/mechanism_extracts/Angew/10.1002_anie.201913332.json
{"doi": "10.1002_anie.201913332", "journal": "Angew", "is_review": false, "rxn_class_summary": "Electrochemical four-component 1,2-difunctionalization of arylalkenes with carboxylic acids, acetonitrile, and alcohols to give functionalized imides via in situ O-acyl isoamide formation and Mumm rearrangement", "mechanism_family": ["radical_cation", "radical_polar_crossover", "paired_electrolysis", "direct_SET"], "electrochemical_role": "Anodic single-electron oxidation of styrene to a radical cation initiates the cascade; cathodic reduction of methanol and benzoic acid generates methoxide and carboxylate nucleophiles plus H2", "key_intermediates": [{"name": "styrene radical cation A", "smiles": "[CH2][CH+]c1ccccc1", "role": "reactive"}, {"name": "beta-methoxy benzyl radical B", "smiles": "COC[C](c1ccccc1)", "role": "transient"}, {"name": "beta-methoxy benzyl cation C", "smiles": "COC[CH+]c1ccccc1", "role": "reactive"}, {"name": "nitrilium ion D (Ritter-type) from MeCN trapping", "smiles": "COCC(c1ccccc1)[N+]#CC", "role": "reactive"}, {"name": "O-acyl isoamide E (acyloxy imidate)", "smiles": null, "role": "transient"}, {"name": "imide product F/3aa (after Mumm rearrangement)", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes styrene to radical cation A; methoxide (from cathodic reduction of MeOH) adds to give benzyl radical B, which is further oxidized at the anode to cation C; MeCN traps C as nitrilium D, which is captured by carboxylate (from cathodic reduction of ArCOOH) to form O-acyl isoamide E that undergoes 1,3-(O->N) Mumm rearrangement to the imide.", "rate_determining_step": "Not the methoxy or acetonitrile incorporation step (excluded by KIE experiments); likely initial anodic oxidation of styrene", "probe_reagents": [{"name": "CD3OD", "smiles": "[2H]C([2H])([2H])O[2H]", "purpose": "KIE", "observation": "Parallel reaction with CH3OH/CD3OD (1:1) gave 3ao/d3-3ao = 1:1, indicating methoxy incorporation is not rate-determining"}, {"name": "CD3CN", "smiles": "[2H]C([2H])([2H])C#N", "purpose": "KIE", "observation": "Parallel reaction with CH3CN/CD3CN (1:1) gave 3ao/d3-3ao = 1:1, indicating MeCN incorporation is not rate-determining"}, {"name": "18O-labeled 4-chlorobenzoic acid", "smiles": null, "purpose": "isotope_label", "observation": "18O is incorporated into the imide oxygen of [18O]-3ak, confirming the acyl-O-to-N migration (Mumm rearrangement) pathway"}], "evidence_types_used": ["H/D_labeling", "isotope_label", "cyclic_voltammetry", "KIE", "product_isotope_distribution"], "evidence_strength": "medium", "notes": "CV showed styrene has the lowest oxidation potential (1.60 V vs SCE), supporting direct anodic oxidation of the alkene rather than the acid or alcohol as the initiating event. The key novelty is electrochemical generation of an otherwise unstable O-acyl isoamide intermediate that spontaneously undergoes Mumm 1,3-acyl O->N migration."}
